US07868001B2
A mixture of 3-(6-chloroimidazo[1,2-b]pyridazin-2-yl)benzonitrile (0.25 mmol) and 10 mL methylamine methanol solution was heated at 125° C. in microwave synthesizer for 30 min. After purification to provide 3-(6-(methylamino)imidazo[1,2-b]pyridazin-2-yl)benzonitrile.

reactant | 3-(6-chloroimidazo[1,2-b]pyridazin-2-yl)benzonitrile | 0.25 mmol | ClC=1C=CC=2N(N1)C=C(N2)C=2C=C(C#N)C=CC2 | C13H7ClN4
reactant | methylamine methanol | 10 mL | CO.CN
product | 3-(6-(methylamino)imidazo[1,2-b]pyridazin-2-yl)benzonitrile | CNC=1C=CC=2N(N1)C=C(N2)C=2C=C(C#N)C=CC2 | C14H11N5
